US06348317B1
The synthesis of the carboxylic acid derivative of thiazole orange was adapted from published procedures, L. G. S. Brooker, et al., J. Am. Chem. Soc. 64:199-210 (1942); H. S. Rye, et al., Nucl. Acids Res. 20:2803-2812 (1992). 5.7 g (32 mmol) of 5-bromovaleric acid and 1.5 mL (11 mmol) of lepidine were refluxed in 30 mL of distilled dioxane under nitrogen overnight. The reaction mixture was allowed to cool to room temperature and filtered. The precipitate was washed twice with 10 mL of dioxane followed by 50 mL of petroleum ether to yield 2.6 g (70%) of pure 1-(4-Carboxybutyl)-4 -methyl-1,4-dihydro-quinolinium bromide.

reactant | thiazole orange | CC1=CC=C(C=C1)S(=O)(=O)[O-].CN\1C2=CC=CC=C2S/C1=C\C3=CC=[N+](C4=CC=CC=C34)C
reactant | 5-bromovaleric acid | 32 mmol, 5.7 g | BrCCCCC(=O)O | C5H9BrO2
reactant | lepidine | 11 mmol, 1.5 mL | N1=CC=C(C)C2=CC=CC=C12 | C10H9N
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 1-(4-Carboxybutyl)-4 -methyl-1,4-dihydro-quinolinium bromide | 2.6 g, 70% | [Br-].C(=O)(O)CCCC[NH+]1C=CC(C2=CC=CC=C12)C | InChI=1S/C15H19NO2.BrH/c1-12-9-11-16(10-5-4-8-15(17)18)14-7-3-2-6-13(12)14;/h2-3,6-7,9,11-12H,4-5,8,10H2,1H3,(H,17,18);1H
